US07776847B2
Synthesis of 4-Chlorobenzo [d]isothiazol-3(2H)-one.
(E)-2-Chloro-6-(methylthio)benzaldehyde oxime (12.37 g) was dissolved in toluene (35 mL). Sulfuryl chloride (5.4 ml, 66.24 mmol) was added, dropwise to the solution at 0° C., followed by heating at 80° C. for 1 h. After the completion of the reaction, the reaction mixture was cooled to room temperature and a white precipitate formed. The solid was collected by vacuum filtration, washed with toluene and air dried to 4-chlorobenzo[d]isothiazol-3(2H)-one (6 g). (This method is general for other 2-(methythio) benzaldehyde oximes.) 1H NMR (300 MHz, DMSO-d6): 7.90 (t, 1H), 7.55 (t, 1H), 7.41 ppm (d, 1H). MW=186 confirmed by LC-MS, tr=2.38 min (Method B) MH+=187.

reactant | (E)-2-Chloro-6-(methylthio)benzaldehyde oxime | 12.37 g | ClC1=C(/C=N/O)C(=CC=C1)SC | C8H8ClNOS
reactant | Sulfuryl chloride | 66.24 mmol, 5.4 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | toluene | 35 mL | C1(=CC=CC=C1)C | C7H8
product | 4-Chlorobenzo [d]isothiazol-3(2H)-one | ClC1=CC=CC2=C1C(NS2)=O | C7H4ClNOS
